US07820654B2
Step (iv). Synthesis of 1-[4-(3-chloro-4-methoxy-phenylamino)-6-phenyl-pyrimidin-2-yl]-piperidin-4-ol
A mixture of compound, 1-(4-chloro-6-phenyl-pyrimidin-2-yl)-piperidin-4-ol (3.97 g, 13.7 mmol), 3-chloro-4-methoxyaniline (2.13 g, 13.7 mmol) in 1-butanol (30 mL) was stirred at 120° C. for 12 hours. The mixture was then cooled to temperature in the range of 20-40° C. The solid precipitated was filtered, collected, stirred in isopropanol (10 mL), filtered, and dried to give the desired compound as a white solid.

reactant | 1-(4-chloro-6-phenyl-pyrimidin-2-yl)-piperidin-4-ol | 13.7 mmol, 3.97 g | ClC1=NC(=NC(=C1)C1=CC=CC=C1)N1CCC(CC1)O | C15H16ClN3O
reactant | 3-chloro-4-methoxyaniline | 13.7 mmol, 2.13 g | ClC=1C=C(N)C=CC1OC | C7H8ClNO
solvent | 1-butanol | 30 mL | C(CCC)O | C4H10O
product | 1-[4-(3-chloro-4-methoxy-phenylamino)-6-phenyl-pyrimidin-2-yl]-piperidin-4-ol | ClC=1C=C(C=CC1OC)NC1=NC(=NC(=C1)C1=CC=CC=C1)N1CCC(CC1)O | C22H23ClN4O2
